US08461328B2
A solution of 3-hydroxy-3-methyl-butyrimidic acid ethyl ester (4.40 g) in ethanol (50 mL) was left to stand for 72 hours. The mixture was filtered and the filtrate concentrated to dryness under vacuum affording 4,4,4-triethoxy-2-methyl-butan-2-ol which was used for the next step without further purification or analysis.

reactant | 3-hydroxy-3-methyl-butyrimidic acid ethyl ester | 4.40 g | C(C)OC(CC(C)(C)O)=N | C7H15NO2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4,4,4-triethoxy-2-methyl-butan-2-ol | C(C)OC(CC(C)(O)C)(OCC)OCC | C11H24O4
